US03971824
A mixture of 4-pentylphenyl 2-chloro-4-hydroxybenzoate (0.0075 mole) prepared as in Example 1 and p-pentylbenzoyl chloride (0.0075 mole) in pyridine (35 ml.) is stirred at room temperature for 5 hours. The reaction mixture is then poured into ice-water. The product is filtered and washed with water to give 4-n-pentylphenyl 2-chloro-4-(4-pentylbenzoyloxy)benzoate (3.1 g., 84%), m.p. 38°-122°C. The analytical sample, m.p. 39°-122°C is obtained by chromatography on Florisil and crystallization from ethanol. The theoretical values calculated for C30H33ClO4 and the values actually found are as follows:

reactant | 4-pentylphenyl 2-chloro-4-hydroxybenzoate | 0.0075 mole | ClC1=C(C(=O)OC2=CC=C(C=C2)CCCCC)C=CC(=C1)O | C18H19ClO3
reactant | p-pentylbenzoyl chloride | 0.0075 mole | C(CCCC)C1=CC=C(C(=O)Cl)C=C1 | C12H15ClO
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | 4-n-pentylphenyl 2-chloro-4-(4-pentylbenzoyloxy)benzoate | 3.1 g, 84% | ClC1=C(C(=O)OC2=CC=C(C=C2)CCCCC)C=CC(=C1)OC(C1=CC=C(C=C1)CCCCC)=O | C30H33ClO4
